### PR TITLE
refactor: remove `erw`s from Lorentz folder

### PR DESCRIPTION
**Pull request by jnlindsay**
Towards https://github.com/HEPLean/PhysLean/issues/385

### CODE REVIEW

**Review by jstoobysmith — APPROVED** [review]
Approved - many thanks :)

File: PhysLean/Relativity/Lorentz/Group/Proper.lean [hunk 1]
```diff
@@ -94,25 +94,23 @@ lemma detContinuous_eq_zero (Λ : LorentzGroup d) :
 
 lemma detContinuous_eq_iff_det_eq (Λ Λ' : LorentzGroup d) :
     detContinuous Λ = detContinuous Λ' ↔ Λ.1.det = Λ'.1.det := by
-  cases' det_eq_one_or_neg_one Λ with h1 h1
-  · rw [h1, (detContinuous_eq_one Λ).mpr h1]
-    cases' det_eq_one_or_neg_one Λ' with h2 h2
-    · rw [h2, (detContinuous_eq_one Λ').mpr h2]
-      simp only [toMul_zero]
-    · rw [h2, (detContinuous_eq_zero Λ').mpr h2]
-      erw [Additive.toMul.apply_eq_iff_eq]
```
Comment (jnlindsay) [inline PhysLean/Relativity/Lorentz/Group/Proper.lean:103]: It looks like we can actually just delete the `erw` lines from the original proof, so my rewrite was actually not necessary... but maybe the `match` layout is easier to read.

Let me know if I should revert back to the original proof layout!

Comment (jnlindsay) [reply PhysLean/Relativity/Lorentz/Group/Proper.lean:103]: Let me know if I should revert back to the original proof layout.

Comment (jstoobysmith) [reply PhysLean/Relativity/Lorentz/Group/Proper.lean:103]: No your proof looks much better in terms of layout and readability  :).

File: PhysLean/Relativity/Lorentz/Group/Rotations.lean [hunk 2]
```diff
@@ -32,11 +32,10 @@ lemma SO3ToMatrix_in_LorentzGroup (A : SO(3)) : SO3ToMatrix A ∈ LorentzGroup 3
...
 lemma SO3ToMatrix_injective : Function.Injective SO3ToMatrix := by
   intro A B h
-  erw [Equiv.apply_eq_iff_eq] at h
-  have h1 := congrArg Matrix.toBlocks₂₂ h
-  erw [Matrix.toBlocks_fromBlocks₂₂, Matrix.toBlocks_fromBlocks₂₂] at h1
   apply Subtype.eq
-  exact h1
+  have h_blocks := congrArg
+    (Matrix.toBlocks₂₂ : _ → Matrix (Fin 3) (Fin 3) ℝ) h
+  exact h_blocks
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Lorentz/Group/Rotations.lean]: does 
```
exact congrArg (Matrix.toBlocks₂₂ : _ → Matrix (Fin 3) (Fin 3) ℝ) h
```
not work directly here instead of having `have h_blocks`? 

Or even better something like
```
lemma SO3ToMatrix_injective : Function.Injective SO3ToMatrix := fun _ _ h => 
  Subtype.eq (congrArg (Matrix.toBlocks₂₂ : _ → Matrix (Fin 3) (Fin 3) ℝ) h)
```

Comment (jstoobysmith) [reply PhysLean/Relativity/Lorentz/Group/Rotations.lean]: (Just checked the latter this does work)

Comment (jnlindsay) [reply PhysLean/Relativity/Lorentz/Group/Rotations.lean]: wow very nice

**Review by jstoobysmith — APPROVED** [review]
